US04610984
4-(4-Methoxybenzoyl)-piperazin-1-yl-acetic acid isopropylamide hydrochloride
A solution of 4.6 g of anisic acid chloride in 20 ml of methylene chloride is added dropwise to 5 g of piperazinoacetic acid isopropylamide in 20 ml of methylene chloride at 0° C. The mixture is then stirred at room temperature for 4 hours and subsequently concentrated. The residue is recrystallised from isopropanol.

reactant | anisic acid chloride | 4.6 g | C(C1=CC=C(C=C1)OC)(=O)Cl | C8H7ClO2
reactant | piperazinoacetic acid isopropylamide | 5 g | C(C)(C)NC(CN1CCNCC1)=O | C9H19N3O
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 4-(4-Methoxybenzoyl)-piperazin-1-yl-acetic acid isopropylamide hydrochloride | Cl.C(C)(C)NC(CN1CCN(CC1)C(C1=CC=C(C=C1)OC)=O)=O | InChI=1S/C17H25N3O3.ClH/c1-13(2)18-16(21)12-19-8-10-20(11-9-19)17(22)14-4-6-15(23-3)7-5-14;/h4-7,13H,8-12H2,1-3H3,(H,18,21);1H
